US04927838
As in Example 113, (E)-3-(1-butyl-3,4-dihydro-6-methoxy-2-naphthalenyl)-2-propenoic acid (1.8 g) was reacted with 4-nitrophenol (0.97 g) in dichloromethane (30 mL) in the presence of 1,3-dicyclohexylcarbodiimide (1.3 g) overnight at room temperature. The normal work up yielded 1.5 g of crude ester. Crystallization from diethyl ether-2-propanol furnished (E)-3-(1-butyl-3,4-dihydro-6-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester, mp 94°-95° C. Anal. Calcd for C24H25NO5 : C, 70.74; H, 6.18; N, 3.44 Found: C, 70.42; H, 6.04; N, 3.29

reactant | (E)-3-(1-butyl-3,4-dihydro-6-methoxy-2-naphthalenyl)-2-propenoic acid | 1.8 g | C(CCC)C1=C(CCC2=CC(=CC=C12)OC)/C=C/C(=O)O | C18H22O3
reactant | 4-nitrophenol | 0.97 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (E)-3-(1-butyl-3,4-dihydro-6-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC=C(C=C2CC1)OC)CCCC)=O | C24H25NO5
